US06004984
Step 1B 2-[3-(2-tert-Butoxycarbonylaminoethyl)-2-(3,5 dimethylphenyl)-1H-indol-5-yl]-2-methylpropionic acid ethyl ester
To a solution of 2-[3-(2-aminoethyl)-2-(3,5-dimethyl-phenyl)-1H-indol-5-yl]-2-methylpropionic acid ethyl ester (763 mg in 7 mL tetrahydrofuran) at 0° C. was added a solution of 682 mg di-tert-butyl dicarbonate in 3 mL tetrahydrofuran followed by a solution of 432 mg poatssium carbonate in 3 mL water and the resulting suspension stirred vigourously at 0° C. After 10 minutes, the reaction was concentrated in vacuo and the residue dissolved in ethyl acetate. The organic portion was washed with brine then dried over magnesium sulfate and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (hexane:ethyl acetate, 90:10; then 80:20; then 70:30) to give the title compound (910 mg).

reactant | 2-[3-(2-aminoethyl)-2-(3,5-dimethyl-phenyl)-1H-indol-5-yl]-2-methylpropionic acid ethyl ester | 7 mL, 763 mg | C(C)OC(C(C)(C)C=1C=C2C(=C(NC2=CC1)C1=CC(=CC(=C1)C)C)CCN)=O | C24H30N2O2
reactant | di-tert-butyl dicarbonate | 682 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | carbonate | 432 mg | C([O-])([O-])=O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | water | 3 mL | O | H2O
product | 2-[3-(2-tert-Butoxycarbonylaminoethyl)-2-(3,5 dimethylphenyl)-1H-indol-5-yl]-2-methylpropionic acid ethyl ester | 910 mg | C(C)OC(C(C)(C)C=1C=C2C(=C(NC2=CC1)C1=CC(=CC(=C1)C)C)CCNC(=O)OC(C)(C)C)=O | C29H38N2O4
